US08461339B2
A. 2-(Isoquinolin-3-ylamino)-4-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-pyridine
1-Boc-4-(2-chloropyridin-4-ylmethyl)piperazine (500 mg, 1.63 mmol) (Preparation B-14) was mixed with 3-aminoisoquinoline (234 mg, 1.0 equiv), Pd2(dba)3 (148 mg, 0.1 equiv), xantphos (140 mg, 0.15 equiv), and Cs2CO3 (735 mg, 1.4 equiv) in toluene. The mixture was refluxed overnight, and EtOAc was added in to dilute the mixture. After filtration, the filtrate was concentrated and applied onto a silica gel column. The title compound (250 mg, yield 61%) was obtained as yellow solid.

reactant | 1-Boc-4-(2-chloropyridin-4-ylmethyl)piperazine | 1.63 mmol, 500 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)CC1=CC(=NC=C1)Cl | C15H22ClN3O2
reactant | 3-aminoisoquinoline | 234 mg, 1.0 equiv | NC=1N=CC2=CC=CC=C2C1 | C9H8N2
reactant | xantphos | 140 mg, 0.15 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 735 mg, 1.4 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 148 mg, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(Isoquinolin-3-ylamino)-4-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-pyridine | 250 mg, yield 61% | C1=NC(=CC2=CC=CC=C12)NC1=NC=CC(=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C24H29N5O2
